US08791107B2
PREPARATION x21: 2-chloro-4-methyl-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
To a round-bottom flask was added 2-chloro-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x20, 264 mg, 1.097 mmol) in DMSO (8.6 mL). Sodium tert-butoxide (126 mg, 1.316 mmol) was then added, followed by 1-(bromomethyl)-4-(methylsulfonyl)benzene (287 mg, 1.152 mmol). The reaction mixture was stirred for 2 days at room temperature. The mixture was subsequently filtered and the filtrate was purified by preparatory HPLC using a gradient of 5-60% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). The fractions were collected and concentrated in vacuo to give the title compound as a yellow solid (94 mg, 21%). ESI-MS m/z [M+H]+ calc'd for C18H21ClN4O3S, 409.1. found 409.6.

reactant | 2-chloro-4-methyl-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.097 mmol, 264 mg | ClC1=NC=2N3C(CNC2C(=N1)C)COCC3 | C10H13ClN4O
reactant | Sodium tert-butoxide | 1.316 mmol, 126 mg | CC(C)([O-])C.[Na+]
reactant | 1-(bromomethyl)-4-(methylsulfonyl)benzene | 1.152 mmol, 287 mg | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | DMSO | 8.6 mL | CS(=O)C | C2H6OS
product | 2-chloro-4-methyl-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 94 mg, 21% | ClC1=NC=2N3C(CN(C2C(=N1)C)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C18H21ClN4O3S
